US06207686B1
Methyl 3-(2-methoxyphenyl)propionate (1.80 g) was reacted with cyclohexane carbaldehyde (1.25 g) in substantially the same manner as that of Preparation 1-4) to give less polar isomer of methyl (2RS,3SR)-3-cyclohexyl-3-hydroxy-2-(2-methoxyphenylmethyl)propionate (isomer A) (0.706 g) and more polar isomer of (2RS,3RS)-isomer of the same (isomer B) (0.940 g).

reactant | Methyl 3-(2-methoxyphenyl)propionate | 1.80 g | COC1=C(C=CC=C1)CCC(=O)OC | C11H14O3
reactant | cyclohexane carbaldehyde | 1.25 g | C1(CCCCC1)C=O | C7H12O
product | methyl (2RS,3SR)-3-cyclohexyl-3-hydroxy-2-(2-methoxyphenylmethyl)propionate | C1(CCCCC1)C(C(C(=O)OC)CC1=C(C=CC=C1)OC)O | C18H26O4
